US07910592B2
To a solution of 8-(3-chloro-4-fluorophenyl)-1,4-dioxaspiro[4.5]decane (401.7 mg, 1.484 mmol) in acetone (6 ml) was added 1M sulfuric acid (24 ml, 24 mmol). The reaction was stirred vigorously at room temperature for 18 hours, and then diluted with EtOAc (100 mL) and washed with water (3×50 mL), saturated NaHCO3 (2×50 mL), and brine (2×50 mL). The organic layer was dried (Na2SO4), filtered, and concentrated to afford 4-(3-chloro-4-fluorophenyl)cyclohexanone. 1H NMR (500 MHz, CDCl3): δ 7.06-7.28 (m, 3H), 3.00 (m, 1H), 2.49-2.52 (m, 4H), 2.19-2.23 (m, 2H), 1.85-1.93 (m, 2H).

reactant | 8-(3-chloro-4-fluorophenyl)-1,4-dioxaspiro[4.5]decane | 1.484 mmol, 401.7 mg | ClC=1C=C(C=CC1F)C1CCC2(OCCO2)CC1 | C14H16ClFO2
reactant | sulfuric acid | 24 mmol, 1M, 24 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetone | 6 ml | CC(=O)C | C3H6O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 4-(3-chloro-4-fluorophenyl)cyclohexanone | ClC=1C=C(C=CC1F)C1CCC(CC1)=O | C12H12ClFO
